US08017602B2
Preparation 5 N-(2,2-Dimethoxyethyl)cyclohexanamine
2-Chloro-1,1-dimethoxyethane (206 mL) was treated with cyclohexanamine (575 mL) and the mixture was heated at 120° C. for 24 h under an atmosphere of nitrogen before being cooled to room temperature. A solution of sodium hydroxide (100 g) in 400 mL water was added, the mixture was stirred at room temperature for 10 min and then the layers were separated. The organic fraction was purified by distillation under reduced pressure (b.p. 105-107° C., 13 mm Hg) to give the title compound as a colourless oil (280 g). 1H NMR (400 MHz, CDCl3) δ 4.46 (t, J=5.5 Hz, 1H), 3.38 (s, 6H), 2.75 (d, J=5.6 Hz, 2H), 2.45-2.35 (m, 1H), 1.92-1.57 (m, 5H), 1.31-1.00 (m, 6H).

reactant | 2-Chloro-1,1-dimethoxyethane | 206 mL | ClCC(OC)OC | C4H9ClO2
reactant | cyclohexanamine | 575 mL | C1(CCCCC1)N | C6H13N
reactant | sodium hydroxide | 100 g | [OH-].[Na+]
solvent | water | 400 mL | O | H2O
product | N-(2,2-Dimethoxyethyl)cyclohexanamine | 280 g | COC(CNC1CCCCC1)OC | C10H21NO2
